US07645789B2
(R)—N-(2-tert-butyl-1-(2,3-dihydroxypropyl)-1H-indol-5-yl)-1-(3,4-dihydroxyphenyl)cyclopropanecarboxamide was prepared using an experimental procedure similar to Example 72 from 1-(3,4-dihydroxyphenyl)cyclopropanecarboxylic acid and 2-tert-butyl-5-nitro-1H-indole.

reactant | 1-(3,4-dihydroxyphenyl)cyclopropanecarboxylic acid | OC=1C=C(C=CC1O)C1(CC1)C(=O)O | C10H10O4
reactant | 2-tert-butyl-5-nitro-1H-indole | C(C)(C)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H14N2O2
product | (R)—N-(2-tert-butyl-1-(2,3-dihydroxypropyl)-1H-indol-5-yl)-1-(3,4-dihydroxyphenyl)cyclopropanecarboxamide | C(C)(C)(C)C=1N(C2=CC=C(C=C2C1)NC(=O)C1(CC1)C1=CC(=C(C=C1)O)O)C[C@H](CO)O | C25H30N2O5
